US08048897B2
(2) Synthesis of (2-Benzyloxy-4-fluorophenyl)-(4-methoxyphenyl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (1.59 M, 3.14 mL) was added dropwise to a solution of 2-benzyloxy-1-bromo-4-fluorobenzene (1.4 g, 5.0 mmol) in THF (50 ml) at −78° C. and the mixture was stirred at the same temperature for 15 minutes. To this solution, a solution of 4-methoxybenzaldehyde (680 mg, 4.99 mmol) in THF (15 mL) was added dropwise at −78° C. and the mixture was stirred at the same temperature for 1.5 hours, and then a saturated ammonium chloride aqueous solution was added thereto and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=n-hexane:dichloro-methane:acetone (12:3:1)] to obtain the title compound (1.41 g, 83%) as a colorless oil.

reactant | n-butyllithium hexane | 1.59 M, 3.14 mL | CCCCCC.C(CCC)[Li]
reactant | 2-benzyloxy-1-bromo-4-fluorobenzene | 5.0 mmol, 1.4 g | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)Br | C13H10BrFO
reactant | 4-methoxybenzaldehyde | 4.99 mmol, 680 mg | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (2-Benzyloxy-4-fluorophenyl)-(4-methoxyphenyl)methanol | 1.41 g, 83% | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)F)C(O)C1=CC=C(C=C1)OC | C21H19FO3
